US07057054B2
400 mg (2.1 mmol) of N-bromosuccinimide was added into 10 ml of anhydrous chloroform with 400 mg (2.1 mmol) of 5-methoxy-2-phenylthiazole under 0° C. condition and was stirred for 4 hours at a room temperature. After completion of reaction, the organic phase was extracted with ethyl acetate, and was dried with addition of magnesium sulfate. After removing the solvent, the product was developed with ethyl acetate:hexane=1:3 solvent on silica column to give 4-bromo-5-methoxy-2-phenylthiazole (Rf=0.50). The yield was 550 mg in weight and 97% in percentage.

reactant | N-bromosuccinimide | 2.1 mmol, 400 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 5-methoxy-2-phenylthiazole | 2.1 mmol, 400 mg | COC1=CN=C(S1)C1=CC=CC=C1 | C10H9NOS
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-5-methoxy-2-phenylthiazole | BrC=1N=C(SC1OC)C1=CC=CC=C1 | C10H8BrNOS
